US07402603B2
Preparation of starting material 2-chloro-6-fluorophenol
4 g (56 mmol) of chlorine is introduced at this temperature. Then 60.5 g (540 mmol) of 2-fluorophenol are dropped in the solution over about 2 hours, while at the same rate 42 g (590 mmol) more chlorine is Introduced. After that 4 g more chlorine are introduced to complete the chlorination.

reactant | chlorine | 56 mmol, 4 g | ClCl | Cl2
reactant | 2-fluorophenol | 540 mmol, 60.5 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | chlorine | 590 mmol, 42 g | ClCl | Cl2
reactant | chlorine | 4 g | ClCl | Cl2
product | 2-chloro-6-fluorophenol | ClC1=C(C(=CC=C1)F)O | C6H4ClFO
